US09353066B2
A solution of 2-chloro-4-(trifluoromethyl)pyrimidine (34 mg, 0.186 mmol), (5-aminobiphenyl-3-yl)(morpholin-4-yl)methanone (63.1 mg, 0.224 mmol), sodium tert-butoxide, Pd2(dba)3 (9.64 mg, 0.009 mmol) and BINAP (11.6 mg, 0.019 mmol) in toluene (0.931 mL) was heated to 130° C. in a microwave reactor for 30 minutes, then allowed to cool to room temperature. The reaction mixture was diluted with ethyl acetate (30 mL) and was washed with 0.1 M HCl (30 mL) followed by brine (30 mL). The aqueous phases were further extracted with ethyl acetate (30 mL), then the combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) provided morpholin-4-yl(5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)methanone as a white solid. MS ESI calc'd. for C22H20F3N4O2 [M+H]+ 429, found 429. 1H NMR (400 MHz, CDCl3): δ 8.69 (d, J=4.9 Hz, 1H); 7.92 (s, 1H); 7.80 (s, 1H); 7.71 (s, 1H); 7.63 (d, J=7.6 Hz, 2H); 7.48 (t, J=7.5 Hz, 2H); 7.40 (d, J=6.8 Hz, 2H); 7.15-7.03 (m, 1H); 3.97-3.44 (m, 8H).

reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.186 mmol, 34 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | (5-aminobiphenyl-3-yl)(morpholin-4-yl)methanone | 0.224 mmol, 63.1 mg | NC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)N1CCOCC1 | C17H18N2O2
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.019 mmol, 11.6 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 0.931 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.009 mmol, 9.64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | morpholin-4-yl(5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)methanone | N1(CCOCC1)C(=O)C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC=CC=C1 | C22H19F3N4O2
